US06313127B1
Sodium hydride (120 mg) (50% dispersion in oil) was added to a stirred solution of 1-(4-hydroxyphenyl)-4-(4-pyridyl)piperazine (510 mg) in dimethylformamide (5 ml) under argon. The solution was stirred at ambient temperature for 30 minutes and a solution of 4-cyanobenzylbromide (430 mg) in dimethyl formamide (5 ml) was added dropwise. The solution was stirred at ambient temperature overnight, water (150 ml) added to give a precipitate which was washed with water, dried and recrystallised from ethanol to give 1-(4-cyanobenzyloxyphenyl)-4-(4-pyridyl)piperazine (660 mg), m.p.212-214° C.

reactant | Sodium hydride | 120 mg | [H-].[Na+]
reactant | 1-(4-hydroxyphenyl)-4-(4-pyridyl)piperazine | 510 mg | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H17N3O
reactant | 4-cyanobenzylbromide | 430 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | water | 150 ml | O | H2O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(4-cyanobenzyloxyphenyl)-4-(4-pyridyl)piperazine | 660 mg | C(#N)C1=CC(=C(C=C1)N1CCN(CC1)C1=CC=NC=C1)OCC1=CC=CC=C1 | C23H22N4O
